US04105776
Methyl iodide (71 g) is added to a solution of 1-(3-mercaptopropanoyl)-L-proline ethyl ester (115 g) and sodium (11.5 g) in ethanol (400 ml). The reaction is allowed to proceed overnight, the ethanol is removed in vacuo and the residue is dissolved in a mixture of ethyl acetate and water. The organic layer is dried and concentrated to dryness in vacuo. The resulting 1-(3-methylthiopropanoyl)-L-proline ethyl ester (98 g) is suspended in a mixture of methanol (200 ml) and 5 N sodium hydroxide (200 ml) and stirred at room temperature for five hours. The methanol is removed in vacuo, and the aqueous phase is extracted with ethyl acetate, acidified and reextracted with ethyl acetate. This last organic phase is washed with water, dried and concentrated to dryness to yield 1-(3-methylthiopropanoyl)-L-proline.

reactant | Methyl iodide | 71 g | CI | CH3I
reactant | 1-(3-mercaptopropanoyl)-L-proline ethyl ester | 115 g | C(C)OC([C@H]1N(CCC1)C(CCS)=O)=O | C10H17NO3S
reactant | sodium | 11.5 g | [Na] | Na
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-(3-methylthiopropanoyl)-L-proline | CSCCC(=O)N1[C@H](C(=O)O)CCC1 | C9H15NO3S
